US04675321
Preparation of Ethyl 3-carbomethoxy-6-methyl-4-phenyl-3,4-dihydropyrimidine-2(1H)one-5-carboxylate
To a suspension of ethyl-6-methyl-4-phenyl-3,4-dihydropyrimidine-2(1H)one-5-carboxylate (5.0 mmol) in dry tetrahydrofuran (b 10 mL) under nitrogen at -78° C. was added dropwise 1.5 M methyllithium (11 mmol) in diethyl ether and the reaction mixture allowed to warm to 25° C. After 30 minutes, the reaction mixture was recooled to -78° C. and methyl chloroformate (5.5 mmol) was added. The reaction mixture was allowed to warm to 25° C., then quenched with saturated aqueous ammonium chloride and extracted with methylene chloride. The combined organic extracts were dried over anhydrous sodium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified by flash chromatography on silica gel eluted with methanol:methylene chloride (5:95) and recrystallized from acetonitrile to give the title product as a solid (mp=179°-180.5° C.).

reactant | ethyl-6-methyl-4-phenyl-3,4-dihydropyrimidine-2(1H)one-5-carboxylate | 5.0 mmol | C(C)OC(=O)C=1C(NC(NC1C)=O)C1=CC=CC=C1 | C14H16N2O3
reactant | methyllithium | 11 mmol, 1.5 M | C[Li]
reactant | methyl chloroformate | 5.5 mmol | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethyl 3-carbomethoxy-6-methyl-4-phenyl-3,4-dihydropyrimidine-2(1H)one-5-carboxylate | C(=O)(OC)N1C(NC(=C(C1C1=CC=CC=C1)C(=O)OCC)C)=O | C16H18N2O5
